US05496854
In a first step, 1 g (43 mmol) of sodium was dissolved in 20 ml of 2-(dimethylamino)ethanol. An amount of 3.0 g (22 mmol) of methyl 4-hydroxybenzoate was added and heated to 110° C. for 24 hours and then cooled to room temperature. The solvent was removed under reduced pressure and using a column chromatography (silica gel, chloroform-methanol), a white solid of 2-(dimethylamino)-ethyl 4-hydroxybenzoate was obtained.

reactant | sodium | 43 mmol, 1 g | [Na] | Na
reactant | methyl 4-hydroxybenzoate | 22 mmol, 3.0 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-(dimethylamino)ethanol | 20 ml | CN(CCO)C | C4H11NO
product | 2-(dimethylamino)-ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCCN(C)C)C=C1 | C11H15NO3
